US05270327
4-(5-chloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride
The procedure described in Example 24 was repeated, but using 0.89 g of 3-(pyrrolidin-1-ylmethyl)morpholine, 2.0 ml of triethylamine and 0.91 g of 5-chloro-3-oxo-indan-1-carbonyl chloride, to afford 0.83 g of the title compound, melting at 220°-229° C. (dec.).

reactant | 3-(pyrrolidin-1-ylmethyl)morpholine | 0.89 g | N1(CCCC1)CC1NCCOC1 | C9H18N2O
reactant | 5-chloro-3-oxo-indan-1-carbonyl chloride | 0.91 g | ClC=1C=C2C(CC(C2=CC1)C(=O)Cl)=O | C10H6Cl2O2
solvent | triethylamine | 2.0 ml | C(C)N(CC)CC | C6H15N
product | 4-(5-chloro-3-oxoindan-1-carbonyl)-3-(pyrrolidin-1-ylmethyl)morpholine hydrochloride | 0.83 g | Cl.ClC=1C=C2C(CC(C2=CC1)C(=O)N1C(COCC1)CN1CCCC1)=O | InChI=1S/C19H23ClN2O3.ClH/c20-13-3-4-15-16(9-13)18(23)10-17(15)19(24)22-7-8-25-12-14(22)11-21-5-1-2-6-21;/h3-4,9,14,17H,1-2,5-8,10-12H2;1H
